US08535655B2
b) (S)-1,3-dihydroxypropan-2-yl 9-fluoro-3-methyl-10-(4-methylpiperazin-1-yl)-7-oxo-3,7-dihydro-2H-[1,4]oxazino[2,3,4-ij]quinoline-6-carboxylate
(S)-2-phenyl-1,3-dioxan-5-yl 9-fluoro-3-methyl-10-(4-methylpiperazin-1-yl)-7-oxo-3,7-dihydro-2H-[1,4]oxazino[2,3,4-ij]quinoline-6-carboxylate (0.50 g, 9.55 mmol), was dissolved in a mixture of dichloromethane/methanol (2:1.5, 87.5 ml) under argon. Palladium catalyst (10 wt % Pd/C) (180 mg) was added, the flask was evacuated and allowed to stir 1 atm of hydrogen gas at room temperature for 16 hours. The crude reaction mixture was passed through a glass microfiber on a sintered funnel. The volatiles were removed under reduced pressure yielding 370 mg (88%) of a yellow gum.

reactant | (S)-2-phenyl-1,3-dioxan-5-yl 9-fluoro-3-methyl-10-(4-methylpiperazin-1-yl)-7-oxo-3,7-dihydro-2H-[1,4]oxazino[2,3,4-ij]quinoline-6-carboxylate | 9.55 mmol, 0.50 g | FC=1C=C2C(C(=CN3C2=C(C1N1CCN(CC1)C)OC[C@@H]3C)C(=O)OC3COC(OC3)C3=CC=CC=C3)=O | C28H30FN3O6
solvent | dichloromethane methanol | 87.5 ml | ClCCl.CO
catalyst | Palladium | 180 mg | [Pd] | Pd
product | (S)-1,3-dihydroxypropan-2-yl 9-fluoro-3-methyl-10-(4-methylpiperazin-1-yl)-7-oxo-3,7-dihydro-2H-[1,4]oxazino[2,3,4-ij]quinoline-6-carboxylate | 370 mg, 88% | FC=1C=C2C(C(=CN3C2=C(C1N1CCN(CC1)C)OC[C@@H]3C)C(=O)OC(CO)CO)=O | C21H26FN3O6
